US06894061B2
1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethanone
The title compound was prepared from 2,5-difluorophenylboronic acid (2.0 g, 12.7 mmol), tetrabutylammonium bromide (3.71 g, 11.5 mmol), potassium carbonate (4.78 g, 34.6 mmol), 2′-bromo-4′-fluoroacetophenone (2.5 g, 11.5 mmol), and palladium acetate (259 mg, 1.15 mmol) according to the procedure and in the same manner as described in Example 105, step a. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 10%-30% methyl tert-butyl ether in hexane, to afford the desired compound (784 mg, 27%) as a clear yellow oil.

reactant | 2,5-difluorophenylboronic acid | 12.7 mmol, 2.0 g | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 34.6 mmol, 4.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2′-bromo-4′-fluoroacetophenone | 11.5 mmol, 2.5 g | BrC1=C(C=CC(=C1)F)C(C)=O | C8H6BrFO
catalyst | tetrabutylammonium bromide | 11.5 mmol, 3.71 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 1.15 mmol, 259 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethanone | 784 mg, 27% | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)C(C)=O | C14H9F3O
